US03931204
A solution of 4.5 g (0.02 mole) of 2-chloro-4-isopropylamino-thieno[3,4-d]pyrimidine and 0.02 mole sodium ethylate in 200 ml absolute ethyl alcohol is heated in an autoclave at 120°C. for 6 hours. It is then evaporated to dryness. The residue is taken up in a mixture of ether and water; the ether phase is washed with water till neutral pH, dried over Na2SO4, filtered and the solvent is driven off in vacuo. The remaining solid (4.4 g) is recrystallized from a mixture of ethyl acetate-hexane containing 30% ethyl acetate. 3.2 g (68% of theory) of 2-ethoxy-4-isopropylamino-thieno[3,4-d]pyrimidine are obtained. M.P. 155°-156°C.

reactant | 2-chloro-4-isopropylamino-thieno[3,4-d]pyrimidine | 0.02 mole, 4.5 g | ClC=1N=C(C=2C(N1)=CSC2)NC(C)C | C9H10ClN3S
reactant | sodium ethylate | 0.02 mole | CC[O-].[Na+]
solvent | ethyl alcohol | 200 ml | C(C)O | C2H6O
product | 2-ethoxy-4-isopropylamino-thieno[3,4-d]pyrimidine | 3.2 g, 68% | C(C)OC=1N=C(C=2C(N1)=CSC2)NC(C)C | C11H15N3OS
